*Chebyshev Band Pass Filter

*** *** FILTER CIRCUIT *** ***
C1 (1 0) capacitor c=#C1#
L1 (1 0) inductor  l=#L1#

L2 (1 2) inductor  l=#L2#
C2 (2 3) capacitor c=#C2#

C3 (3 0) capacitor c=#C3#
L3 (3 0) inductor  l=#L3#


*** *** PORT EMULATION *** ***
*** http://eesof.tm.agilent.com/docs/iccap2002/MDLGBOOK/5SIMULATIONS/5Spice2Spar.pdf
*** S11=2*V(1)/Vin-1   S21=2*V(3)/Vin
Vin (10 0) vsource dc=1 mag=1
R1  (10 1) resistor r=50
R3  ( 3 0) resistor r=50

*** *** ANALYSIS *** ***
analysisAC1 ac dec=1000 start=800M stop=1200M save=all oppoint=none


// *** *** PORT *** ***
// port1 (1 0) port r=50 num=1
// port2 (3 0) port r=50 num=2
//
// *** *** ANALYSIS *** ***
// analysisAC2 sp dec=1000 start=800M stop=1200M ports=[port1 port2] file="filename"

// End of Netlist
